resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.016182
R2 0 n2 0.992505
R3 0 n4 1.011325
R4 n1 n3 0.998381
R5 n1 n5 5.056333
R6 n2 n3 0.988683
R7 n2 n6 0.984646
R8 n3 n7 1.002884
R9 n4 n5 1.011638
R10 n4 n6 0.060157
R11 n5 n7 1.009802
R12 n6 n7 0.990567
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
